US08119673B2
To a solution of tert-butyl (3S)-3-{[5-chloro-2-(1H-tetrazol-1-yl)benzyl]carbamoyl}pyrazolidine-1-carboxylate (82 mg, 0.200 mmol) in DCM (2 mL) and pyridine (0.080 mL) was added a solution of (R)-2-phenyl-2-(trimethylsilyloxy)acetyl chloride (ca 0.3 M in DCM, 1 mL, 0.3 mmol, see Preparation 2). The resulting solution was stirred at rt over night. TFA (ca 1 mL) was added and the mixture was stirred for one more hour and then evaporated. The residue was purified using flash chromatography (DCM/MeCN gradient from 2:1 to 1:1) to give (3S)—N-[5-chloro-2-(1H-tetrazol-1-yl)benzyl]-2-[(2R)-2-hydroxy-2-phenylacetyl]pyrazolidine-3-carboxamide (52 mg, 59%) as an oil.

reactant | tert-butyl (3S)-3-{[5-chloro-2-(1H-tetrazol-1-yl)benzyl]carbamoyl}pyrazolidine-1-carboxylate | 0.200 mmol, 82 mg | ClC=1C=CC(=C(CNC(=O)[C@H]2NN(CC2)C(=O)OC(C)(C)C)C1)N1N=NN=C1 | C17H22ClN7O3
reactant | (R)-2-phenyl-2-(trimethylsilyloxy)acetyl chloride | 0.3 mmol, ca 0.3 M, 1 mL | C1(=CC=CC=C1)[C@H](C(=O)Cl)O[Si](C)(C)C | C11H15ClO2Si
reactant | TFA | ca 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 0.080 mL | N1=CC=CC=C1 | C5H5N
product | (3S)—N-[5-chloro-2-(1H-tetrazol-1-yl)benzyl]-2-[(2R)-2-hydroxy-2-phenylacetyl]pyrazolidine-3-carboxamide | 52 mg, 59% | ClC=1C=CC(=C(CNC(=O)[C@H]2N(NCC2)C([C@@H](C2=CC=CC=C2)O)=O)C1)N1N=NN=C1 | C20H20ClN7O3
